US07576215B2
{3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(2-CHLOROQUINOLIN-3-YL)METHYL]AMINE
The title compound was prepared from {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine and 2-chloroquinoline-3-carboxaldehyde to the procedure of step 1, Example 66. MS (ESI) m/z 554.

reactant | {3-[3-benzyl-8-(trifluoromethyl)quinolin-4-yl]phenyl}amine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 2-chloroquinoline-3-carboxaldehyde | ClC1=NC2=CC=CC=C2C=C1C=O | C10H6ClNO
product | {3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}[(2-CHLOROQUINOLIN-3-YL)METHYL]AMINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCC=1C(=NC2=CC=CC=C2C1)Cl)C(F)(F)F | C33H23ClF3N3
